US04003904
2.0 Parts of 5-[1-phenyl-1-(3-pyridyl)-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole was reacted with 4.0 parts of acetic anhydride in pyridine and refluxed for 2 hours to provide 5-[1-phenyl-1-(3-pyridyl)- 3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-2-methyl-1,3,4-oxadiazole.

reactant | 5-[1-phenyl-1-(3-pyridyl)-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole | C1(=CC=CC=C1)C(CCN1C2CCC(C1)CC2)(C=2C=NC=CC2)C2=NN=NN2 | C22H26N6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-[1-phenyl-1-(3-pyridyl)- 3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-2-methyl-1,3,4-oxadiazole | C1(=CC=CC=C1)C(CCN1C2CCC(C1)CC2)(C=2C=NC=CC2)C2=NN=C(O2)C | C24H28N4O
